US09238644B2
The 2-(4-aminophenyl)piperidine regioisomer of G14 can be prepared by reaction of commercially available compounds of the formula F5, where L3=I or Br, with pyridin-2-ylboronic acid (G22) in a Suzuki type reaction to form 2-(4-nitrophenyl)pyridine (G23). Reduction of G23 with hydrogen in the presence of a catalyst, for example platinum oxide, gives 4-(piperidin-2-yl)aniline (G24) which may be protected using Boc anhydride to give tert-butyl 2-(4-aminophenyl)piperidine-1-carboxylate (G25).

reactant | hydrogen | [H][H] | H2
reactant | 4-(piperidin-2-yl)aniline | N1C(CCCC1)C1=CC=C(N)C=C1 | C11H16N2
reactant | Boc anhydride | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | platinum oxide | [Pt]=O
product | tert-butyl 2-(4-aminophenyl)piperidine-1-carboxylate | NC1=CC=C(C=C1)C1N(CCCC1)C(=O)OC(C)(C)C | C16H24N2O2
